US05173493
A mixture of 8,9-dihydro-10-methyl-7-methylenepyrido[1,2-a]indol-6(7H)-one (142 mg), 2-methylimidazole (180 mg), isopropyl alcohol (1 ml) and water (0.4 ml) was heated at 100° C. for 3 hours. The reaction mixture was purified by a procedure analogous to that of Example 74 to give 8,9-dihydro-10-methyl-7-[(2-methyl-1H-imidazol-1-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (60 mg).

reactant | 8,9-dihydro-10-methyl-7-methylenepyrido[1,2-a]indol-6(7H)-one | 142 mg | CC1=C2N(C3=CC=CC=C13)C(C(CC2)=C)=O | C14H13NO
reactant | 2-methylimidazole | 180 mg | CC=1NC=CN1 | C4H6N2
reactant | isopropyl alcohol | 1 ml | C(C)(C)O | C3H8O
solvent | water | 0.4 ml | O | H2O
product | 8,9-dihydro-10-methyl-7-[(2-methyl-1H-imidazol-1-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 60 mg | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CN2C(=NC=C2)C)=O | C18H19N3O
